US05998452
Preparation of 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-(3-hydroxypropyl)-1,3-thiazolidin-4-one
To a solution of the resulting 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(2-carboxyethyl)-1,3-thiazolidin-4-one (100 mg) in tetrahydrofuran (3 ml) were added dropwise triethylamine (27 mg) and ethyl chloroformate (28 mg) at -10° C. under a nitrogen atmosphere, followed by stirring at -10 to -5° C. for 1 hour. To the mixture was added sodium borohydride (100 mg), the mixture was stirred at room temperature for 3 hours, then poured into ice-water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform-methanol, 98:2) to afford 70 mg (73%) of the product which was identical with that of Reference Example 15.

reactant | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(2-carboxyethyl)-1,3-thiazolidin-4-one | 100 mg | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SCC(N1CCC(=O)O)=O | C20H29NO4S
reactant | triethylamine | 27 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 28 mg | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-(3-hydroxypropyl)-1,3-thiazolidin-4-one | 70 mg, 73% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SCC(N1CCCO)=O | C20H31NO3S
